reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]([C:4](=[C:5]([H:14])[H:15])[H:13])([H:11])[H:12])([O:6][H:16])[H:10])([H:7])([H:8])[H:9],81.3832815871581
[C:1]([C+:2]([N:3]([O-:4])[H:10])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]/[O:4][H:10])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])([H:8])[H:9],42.64394703628267
[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C:6](=[C:7]([H:12])[H:13])[C:4]1=[O:5])([H:8])([H:9])[H:10],70.1786325592616
[C:1]([O:2][c:3]1[n:4]([H:11])[n:5][c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10],42.17620175419899
[C:1]([O+:2]=[C-:3][H:10])([H:7])([H:8])[H:9].[C:4](=[O:5])([N:6]([H:12])[H:13])[H:11]>>[C:1]([O:2][C:3]([C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],20.433816838798705
[H:7][H:10].[O:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:14])([H:12])[H:13])([H:8])[H:9])[H:11]>>[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7],62.21376527802051
[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2](/[C:3](=[N:4]\[H:12])[O+:6]=[C-:5][C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10],90.5149640625423
[C:1](=[C:2]([O:3][H:6])[C:4](=[O:5])[H:9])([H:7])[H:8]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[H:9])([H:6])([H:7])[H:8],57.25583100331371
[C:1]([C:2]#[N:3])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:11])[H:14].[O:4]=[C:5]([H:12])[H:13]>>[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10],55.7135367761817
[H:7][H:9].[N:1](=[C:2]1\[O:3][C@:4]1([C:5]#[N:6])[H:10])\[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],40.74526972458732
[N:1]([C:2]([C@@:3]1([H:11])[C:5]([N:4]([H:12])[H:13])=[N:6]1)([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2]([C@@:3]([N:4]([H:12])[H:13])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8],69.7805831025162
[C-:3]#[O+:4].[C-:5]#[O+:6].[C:1]([N:2]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],60.927745686473806
[C:1]([O:2][C:3]([C:4]#[N:5])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1](=[O:2])([H:6])[H:7].[C:3]1([H:9])([H:10])[C:4]([H:8])=[N:5]1,90.12595711771351
[O:1]([C:2]([C:3]#[C:4]/[C:5](=[C:6](/[O:7][H:12])[H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],54.9315433842466
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@:2]12[C:3]([H:11])=[C:4]([H:13])[C@@:7]1([H:15])[C@:6]2([O:5][H:12])[H:14])([H:8])([H:9])[H:10],101.676353925583
[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[O:3])([H:8])[H:9].[H:7][H:11].[N:4](=[C:5]=[N:6][H:12])[H:10],103.020947473684
[C:1]([C:2]([O+:3]=[C:4]=[C:6]([O-:7])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5]([H:13])([H:14])([H:15])[H:16]>>[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],18.2083215235078
[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]=[C:4]([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]=[N:6][H:12],53.346871467775706
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:8])[H:9].[C:3](=[O:4])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13].[H:10][H:14],86.76802304152477
[C:1]([O:2][C:3](=[C:4]([H:11])[H:12])[H:10])([H:6])([H:7])[H:8].[O:5]([H:9])[H:13]>>[C:1]([O:2][C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],65.31591287896944
[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[O:1]([C@:2]1([H:7])[C@:3]2([H:8])[C:4]([H:9])([H:10])[C@@:5]1([H:12])[O:6]2)[H:11],108.385343704071
[C:1]([C:7](=[C:6]=[C:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])[H:11])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],98.92238668505635
[C:1]([C:2]([C:3](=[O:4])[C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:14]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],68.4778733718202
[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10].[C:6]([O:7][H:19])[H:18]>>[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],24.389802698595297
[O:1]([C:2]([C:3]#[C:4][H:9])([C:5]#[C:6][H:10])[H:8])[H:7]>>[O:1]([C:2](=[C:3]=[C:4]([H:8])[H:9])[C:5]#[C:6][H:10])[H:7],71.8392389455294
